US04954520
Methyl 5,6-dihydroxyhexanoate (0.32 g, 2.0 mmol),2E,4E -pentadecadienal (0.445 g, 2.0 mmol) and catalytic pyridinium p-toluene sulfonate (PPTS) were refluxed in 10 ml of benzene with a Dean Stark trap for 21 hours. The mixture was cooled, filtered, and concentrated. Flash chromatography with 25:1+20:1 hexane/ethyl acetate provided methyl 2-tetradeca-1E,-3E-dienyl-1, 3-dioxolane-4-butanoate as 21 mg of isomer B as a crystalline solid, 25 mg of isomer A, as a crystalline solid, and 68 mg of a mixture of A and B.

reactant | Methyl 5,6-dihydroxyhexanoate | 2.0 mmol, 0.32 g | OC(CCCC(=O)OC)CO | C7H14O4
reactant | 2E,4E -pentadecadienal | 2.0 mmol, 0.445 g | C(\C=C\C=C\CCCCCCCCCC)=O | C15H26O
reactant | pyridinium p-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-tetradeca-1E,-3E-dienyl-1, 3-dioxolane-4-butanoate | C(=C\C=C\CCCCCCCCCC)/C1OCC(O1)CCCC(=O)OC | C22H38O4
